US07125901B2
A mixture of N-{4-[(E)-2-(4-nitrophenyl)vinyl]-5-phenyl-1,3-thiazol-2-yl}acetamide and N-{4-[(Z)-2-(4-nitrophenyl)vinyl]-5-phenyl-1,3-thiazol-2-yl}acetamide (E:Z=2:1) (600 mg), 10% palladium carbon (657 mg), MeOH (6 ml), THF (6 ml) and AcOH (1 ml) were combined. The reaction mixture was stirred under 3 atm H2 at r.t. for 3.5 hours, and filtered through a celite pad. The filtrate was concentrated in vacuo. 1N-NaOH was added to the residue, and the mixture was extracted with AcOEt. The organic layer was washed with water and brine, dried over MgSO4, and concentrated in vacuo to give N-{4-[2-(4-aminophenyl)ethyl]-5-phenyl-1,3-thiazol-2-yl}acetamide (528.6 mg) as a pale brown amorphous substance.

reactant | N-{4-[(E)-2-(4-nitrophenyl)vinyl]-5-phenyl-1,3-thiazol-2-yl}acetamide | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C=1N=C(SC1C1=CC=CC=C1)NC(C)=O | C19H15N3O3S
reactant | N-{4-[(Z)-2-(4-nitrophenyl)vinyl]-5-phenyl-1,3-thiazol-2-yl}acetamide | 600 mg | [N+](=O)([O-])C1=CC=C(C=C1)\C=C/C=1N=C(SC1C1=CC=CC=C1)NC(C)=O | C19H15N3O3S
reactant | MeOH | 6 ml | CO | CH4O
reactant | THF | 6 ml | C1CCOC1 | C4H8O
catalyst | palladium carbon | 657 mg | [C].[Pd]
solvent | AcOH | 1 ml | CC(=O)O | C2H4O2
product | N-{4-[2-(4-aminophenyl)ethyl]-5-phenyl-1,3-thiazol-2-yl}acetamide | 528.6 mg | NC1=CC=C(C=C1)CCC=1N=C(SC1C1=CC=CC=C1)NC(C)=O | C19H19N3OS
